US04470986
A mixture of 5-(4-cyanobutyl)-imidazo[1,5-a]pyridine (4.0 g), sodium azide (1.88 g), ammonium chloride (1.57 g) and lithium chloride (10 mole %) in 14 ml of dry dimethylformamide is heated at 125° for 17 hours. The reaction mixture is cooled, filtered and evaporated to a residual oil which is redissolved in 50 ml of water and extracted with ethyl acetate (50 ml). The aqueous phase is adjusted to pH=2 and extracted with ethyl acetate and then adjusted to pH=5. The resulting solid is collected by filtration and converted to its hydrochloride salt which is recrystallized from acetone/methanol to yield 5-[4-(5-tetrazolyl)butyl]-imidazo[1,5-a]pyridine monohydrochloride, m.p. 159°-161°.

reactant | 5-(4-cyanobutyl)-imidazo[1,5-a]pyridine | 4.0 g | C(#N)CCCCC1=CC=CC=2N1C=NC2 | C12H13N3
reactant | sodium azide | 1.88 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.57 g | [Cl-].[NH4+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 5-[4-(5-tetrazolyl)butyl]-imidazo[1,5-a]pyridine monohydrochloride | Cl.N1N=NN=C1CCCCC1=CC=CC=2N1C=NC2 | InChI=1S/C12H14N6.ClH/c1(2-7-12-14-16-17-15-12)4-10-5-3-6-11-8-13-9-18(10)11;/h3,5-6,8-9H,1-2,4,7H2,(H,14,15,16,17);1H
